US06200976B1
a. 4-{[6-(N-methoxycarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-2-oxo-1,2-dihydroquinoxalin-3-yl]-methyl}-benzonitrile
2.0 g (4.15 mmol) of 4-{[6-(quinolin-8-yl-sulphonylamino)-1-methyl-2-oxo-1,2-dihydroquinoxalin-3-yl]-methyl}-benzonitrile are dissolved in 150 ml tetrahydrofuran and after the addition of 0.2 g (4.15 mmol) of sodium hydride (50% in oil) stirred for 2 hours at ambient temperature. After the addition of 0.47 ml (4.15 mmol) of ethyl bromoacetate the reaction mixture was stirred for 5 hours. The precipitate is suction filtered, the mother liquor is evaporated down and chromatographed on silica gel, eluting initially with petroleum ether and then with petroleum ether/ethyl acetate (55:45). The desired fractions are combined and evaporated down.

reactant | 4-{[6-(quinolin-8-yl-sulphonylamino)-1-methyl-2-oxo-1,2-dihydroquinoxalin-3-yl]-methyl}-benzonitrile | 4.15 mmol, 2.0 g | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)NC=1C=C2N=C(C(N(C2=CC1)C)=O)CC1=CC=C(C#N)C=C1 | C26H19N5O3S
reactant | sodium hydride | 4.15 mmol, 0.2 g | [H-].[Na+]
reactant | ethyl bromoacetate | 4.15 mmol, 0.47 ml | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4-{[6-(N-methoxycarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-2-oxo-1,2-dihydroquinoxalin-3-yl]-methyl}-benzonitrile | COC(=O)CN(C=1C=C2N=C(C(N(C2=CC1)C)=O)CC1=CC=C(C#N)C=C1)S(=O)(=O)C=1C=CC=C2C=CC=NC12 | C29H23N5O5S
